US07825256B2
3,4-(Methylenedioxy)acetophenone (95.0 mg, 577 μmol) and (2-amino-ethyl)-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethyl]-carbamic acid tert-butyl ester (200 mg, 577 μmol) were heated to 70° C. in 1,4-dioxane (4 mL) under a nitrogen atmosphere for 16 h. The reaction was then cooled to r.t. and NaHB(OAc)3 (367 mg, 1.73 mmol) was added. After stirring for an additional hour, water was added and the solution was extracted with ethyl acetate (2×50 mL), washed with brine and dried over Na2SO4. Evaporation of the solvent gave a yellow residue which was dissolved in TFA/DCM (1:1, 5 mL) and stirred at room temperature for 30 min. The solvent was evaporated to afford an orange residue. The crude product was diluted with EtOAc (50 mL), washed with 1M NaOH (50 mL), brine (50 mL), dried over Na2SO4, filtered and concentrated to an oil. Purification was achieved using column chromatography (CH2Cl2 to 4:1 CH2Cl2/MeOH) to afford 198 mg (87%) of N-(1-benzo[1,3]dioxol-5-yl-ethyl)-N′-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethyl]-ethane-1,2-diamine as a clear glass. [M+H]+ 395.05; 1H NMR (400 MHz, CD3OD) δ 8.87 (s, 1H), 8.09 (s, 1H), 7.42 (s, 1H), 7.36 (s, 1H), 7.00 (d, 1H), 6.91 (dd, 1H), 6.78 (dd, 1H), 5.96 (s, 2H), 4.30 (q, 1H), 3.57 (m, 2H), 3.38 (q, 1H), 2.73 (m, 4H), 2.60 (s, 3H), 1.60 (d, 3H), 1.48 (d, 3H).

reactant | 3,4-(Methylenedioxy)acetophenone | 577 μmol, 95.0 mg | CC(=O)C1=CC2=C(C=C1)OCO2 | C9H8O3
reactant | (2-amino-ethyl)-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethyl]-carbamic acid tert-butyl ester | 577 μmol, 200 mg | C(C)(C)(C)OC(N(C(C)C1=NC(=NC(=C1)C)N1C=NC=C1)CCN)=O | C17H26N6O2
reactant | water | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | TFA DCM | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-(1-benzo[1,3]dioxol-5-yl-ethyl)-N′-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethyl]-ethane-1,2-diamine | 198 mg, 87% | O1COC2=C1C=CC(=C2)C(C)NCCNC(C)C2=NC(=NC(=C2)C)N2C=NC=C2 | C21H26N6O2
